US05302720
A mixture of 2-amino-4-methoxybiphenyl hydrochloride (4.4 g) and 4-cyanomorpholine (3.14 g) in m-cresol (25 ml) was heated at 90°-95° C. for 20 hours to yield N-(4-methoxy-2-biphenylyl)morpholine-4-carboxamidine (m.p. 140°-142° C.) which was recrystallised from ethylacetate. N-(4-Methoxy-2-biphenylyl)morpholine-4-carboxamidine (1.2 g) was dissolved in methanol (10 ml) and treated with fumaric acid (1.45 g) to give N-(4-methoxy-2-biphenylyl)morpholine-4-carboxamidine fumarate [m.p. 120° (dec)] which was recrystallised from a 1:1 mixture of methanol and ether.

reactant | 2-amino-4-methoxybiphenyl hydrochloride | 4.4 g | Cl.NC1=C(C=CC(=C1)OC)C1=CC=CC=C1
reactant | 4-cyanomorpholine | 3.14 g | C(#N)N1CCOCC1 | C5H8N2O
solvent | m-cresol | 25 ml | C1=C(C=CC=C1O)C | C7H8O
product | N-(4-methoxy-2-biphenylyl)morpholine-4-carboxamidine | COC1=CC(=C(C=C1)C1=CC=CC=C1)NC(=N)N1CCOCC1 | C18H21N3O2
